US06599902B2
Synthesis of 5-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid [2-(2,2,2-Trifluoro-ethylamino)-ethyl]-amide
A mixture of 5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (95 mg, 0.19 mmol), N-(2,2,2-trifluoro-ethyl)-methanediamine (59 mg, 0.41 mmol), HOBt (41 mg, 0.3 mmol), EDAC (59 mg, 0.31 mmol) and TEA (0.06 mL) in DMF (3 mL) was stirred at rt for 48 hours. The reaction was concentrated, diluted with sodium bicarbonate and extracted with DCM (2×). The combined DCM was washed with brine, dried and concentrated. The residue was purified on a silica gel column to give 82 mg (69%) of the titled compound.

reactant | 5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid | 0.19 mmol, 95 mg | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)C(=O)O)C | C23H18Cl2N2O5S
reactant | N-(2,2,2-trifluoro-ethyl)-methanediamine | 0.41 mmol, 59 mg | FC(CNCN)(F)F | C3H7F3N2
reactant | HOBt | 0.3 mmol, 41 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDAC | 0.31 mmol, 59 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 5-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid [2-(2,2,2-Trifluoro-ethylamino)-ethyl]-amide | 82 mg, 69% | FC(CNCCNC(=O)C1=C(NC(=C1C)\C=C\1/C(NC2=CC=C(C=C12)S(=O)(=O)CC1=C(C=CC=C1Cl)Cl)=O)C)(F)F | C27H25Cl2F3N4O4S
